US06759428B2
To 140 mg (0.25 mmol) of 6-chloro-1-{2-[(triisopropylsilanyl)-methoxy]-ethyl}-1H-indole-2-carboxylic acid [(1S,2R)-2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide dissolved in 20 mL THF was added 66 mg (0.25 mmol) of tetrabutylammonium fluoride (1.0 M in THF). The reaction mixture was stirred at room temperature for several hours, concentrated, and purified by column chromatography eluting with 70% ethyl acetate in hexane to provide 50 mg of 6-chloro-1-(2-hydroxy-ethyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide. HPLC: 98% pure, yield: 50%, MS: 403 (M+H+).

reactant | 6-chloro-1-{2-[(triisopropylsilanyl)-methoxy]-ethyl}-1H-indole-2-carboxylic acid [(1S,2R)-2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide | 0.25 mmol, 140 mg | C(#N)CNC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC(=CC=C2C1)Cl)CCOC[Si](C(C)C)(C(C)C)C(C)C | C30H45ClN4O3Si
reactant | tetrabutylammonium fluoride | 0.25 mmol, 1.0 M, 66 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-chloro-1-(2-hydroxy-ethyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide | 50 mg, yield: 50% | C(#N)CNC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC(=CC=C2C1)Cl)CCO | C20H23ClN4O3
